US05686469
1-[2-(S)-[(9-Oxo-9H-fluorene-4-carbonyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl ]-L-proline 4-phenylbutylamide (134 mg) with 9-fluorenone-4-carbonyl chloride (131 mg) provided 35 mg(18%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl ]-L-proline 4-phenylbutylamide | 134 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | 9-fluorenone-4-carbonyl chloride | 131 mg | C1=CC=C(C=2C3=CC=CC=C3C(C12)=O)C(=O)Cl | C14H7ClO2
product | 1-[2-(S)-[(9-Oxo-9H-fluorene-4-carbonyl)amino]-4-methylpentyl]-L-proline 4-Phenylbutylamide | 35 mg, 18% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(=O)C1=CC=CC=2C(C3=CC=CC=C3C12)=O)=O | C35H41N3O3
